US07687502B2
6-[(5-Fluoropyridin-3-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)quinazolin-4-yl-amine
The compound of Example 119 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 3,5-difluoropyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 3,5-difluoropyridine | FC=1C=NC=C(C1)F | C5H3F2N
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 6-[(5-Fluoropyridin-3-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)quinazolin-4-yl-amine | FC=1C=C(C=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C17H13FN6O
